US04835175
5.3 g of 7-benzyloxyindole-2-carboxylic acid is suspended in 80 ml of dichloromethane and combined in succession with 4.1 g of dicyclohexylcarbodiimide, 1.9 g of phenol, and 300 mg of 4-pyrrolidinopyridine. The reaction mixture is stirred for 18 hours at room temperature, the resultant precipitate is filtered off, and the filtrate is extracted twice with water, twice with 5% acetic acid, and twice with water. The organic phase is dried, treated with active carbon, and concentrated. The residue is chromatographed over a silica gel column with chloroform, thus obtaining 5.5 g of 7-benzyloxyindole-2-carboxylic acid phenyl ester as a viscous oil.

reactant | 7-benzyloxyindole-2-carboxylic acid | 5.3 g | C(C1=CC=CC=C1)OC=1C=CC=C2C=C(NC12)C(=O)O | C16H13NO3
reactant | dicyclohexylcarbodiimide | 4.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | phenol | 1.9 g | C1(=CC=CC=C1)O | C6H6O
reactant | 4-pyrrolidinopyridine | 300 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 7-benzyloxyindole-2-carboxylic acid phenyl ester | 5.5 g | C1(=CC=CC=C1)OC(=O)C=1NC2=C(C=CC=C2C1)OCC1=CC=CC=C1 | C22H17NO3
